US07429605B2
A solution of 900 mg (3.49 mmol) 5-(4-Chloro-phenyl)-nicotinic acid methyl ester in 30.0 ml Ethanol was treated at room temperature (r. t.) with 264 mg (69.9 mmol) of sodium borohydride. The mixture was stirred for two days at 50° C. Then it was poured on ice and extracted tree times with ethyl acetate. The combined organic phases were washed with water, dried (sodium sulphate) and evaporated. Chromatography on silica (eluent: ethyl acetate/methanol 6:1) gave 522 mg (67%) of [5-(4-Chloro-phenyl)-pyridin-3-yl]-methanol.

reactant | 5-(4-Chloro-phenyl)-nicotinic acid methyl ester | 3.49 mmol, 900 mg | COC(C1=CN=CC(=C1)C1=CC=C(C=C1)Cl)=O | C13H10ClNO2
reactant | sodium borohydride | 69.9 mmol, 264 mg | [BH4-].[Na+]
solvent | Ethanol | 30.0 ml | C(C)O | C2H6O
product | [5-(4-Chloro-phenyl)-pyridin-3-yl]-methanol | 522 mg, 67% | ClC1=CC=C(C=C1)C=1C=C(C=NC1)CO | C12H10ClNO
